US09399639B2
Step 1) chloromethyl 2-((tert-butoxycarbonyl)amino)-2-methylpropanoate
The title compound was prepared according to the procedure as described in Example 17 Step 1 using 2-((tert-butoxycarbonyl)amino)-2-methylpropanoic acid (1.07 g, 5.29 mmol) in DCM (25 mL) and H2O (25 mL), NaHCO3 (1.78 g, 21.2 mmol), TBAHSO4 (0.18 g, 0.53 mmol) and a solution of chloromethyl sulfochloridate (638 μL, 6.35 mmol) in DCM (5 mL). The title compound was obtained as a white solid (1.16 g, 87.7%). The title compound was characterized by 1H NMR as shown below:

reactant | 2-((tert-butoxycarbonyl)amino)-2-methylpropanoic acid | 5.29 mmol, 1.07 g | C(C)(C)(C)OC(=O)NC(C(=O)O)(C)C | C9H17NO4
reactant | NaHCO3 | 21.2 mmol, 1.78 g | C(=O)(O)[O-].[Na+]
reactant | DCM | 25 mL | C(Cl)Cl | CH2Cl2
reactant | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 25 mL | O | H2O
product | chloromethyl 2-((tert-butoxycarbonyl)amino)-2-methylpropanoate | C(C)(C)(C)OC(=O)NC(C(=O)OCCl)(C)C | C10H18ClNO4
